US03996374
A solution of 8.7 g. of 2-(4-bromobutyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester in 40 ml. of acetone is treated with 3.0 g. of sodium iodide and 1.6 g. of diethylamine and stirred in the dark at room temperature for 20 hours. After concentration under reduced pressure, the residue is treated at 0°-2° C. with 40 ml. of 1-N sodium hydroxide solution and then extracted with ether. The ethereal extract is immediately shaken with 40 ml. of 0.5-N hydrochloric acid and the acidic aqueous phase is made alkaline at 0°-2° C. with 1-N sodium hydroxide solution. The mixture is immediately extracted with methylene chloride and the organic phase, shielded from daylight, is dried over sodium sulfate. After concentration, the resulting oil is dissolved in ether and treated with ethereal hydrochloric acid. The crystallized hydrochloride is removed by filtration and washed with ether, and there is obtained 5-chloro-2-[4-(diethylamino)butyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 137°-140° C. Recrystallization from methylene chloride/ether does not increase the melting point.

reactant | 2-(4-bromobutyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCCBr | C21H21BrClNO2
reactant | sodium iodide | [I-].[Na+]
reactant | diethylamine | C(C)NCC | C4H11N
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-2-[4-(diethylamino)butyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCCN(CC)CC | InChI=1S/C25H31ClN2O2.ClH/c1-4-27(5-2)16-10-11-17-28-23(19-12-8-7-9-13-19)22-18-20(26)14-15-21(22)24(28)25(29)30-6-3;/h7-9,12-15,18H,4-6,10-11,16-17H2,1-3H3;1H
